US08957089B2
85.3 1-[1-(4-Chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-ol
A solution of 1-[1-(4-chlorophenyl)cyclopropyl]-7-methoxy-3,4-dihydroisoquinoline (700 mg, 2.2 mmol) in methylenehloride (10 ml) under nitrogen was cooled to −78° C. Borontribromide (BBr3, 4.2 ml 1M in methyleneloride, 4.2 mmol) was added dropwise. The reaction was allowed to warm up to room temperature and stirred overnight. Methanol was added (5 ml) and the resulting mixture poured into water neutralized with 1M sodiumbicarbonate and extracted consecutively with methylenehloride and water. The organic layer was dried (Na2SO4), the solvents removed and the black residue purified by chromatography. Yield: 320 mg, (1.1 mmol, 48%).

reactant | 1-[1-(4-chlorophenyl)cyclopropyl]-7-methoxy-3,4-dihydroisoquinoline | 2.2 mmol, 700 mg | ClC1=CC=C(C=C1)C1(CC1)C1=NCCC2=CC=C(C=C12)OC | C19H18ClNO
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | Methanol | CO | CH4O
reactant | sodiumbicarbonate | 1M | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 1-[1-(4-Chlorophenyl)cyclopropyl]-3,4-dihydroisoquinolin-7-ol | ClC1=CC=C(C=C1)C1(CC1)C1=NCCC2=CC=C(C=C12)O | C18H16ClNO
